US04369324
19 g (0.09 mol) of benzothiazol-2-yl-carbamic acid ethyl ester are nitrated as described in Example 1. The resulting water-moist paste of 6-nitro-benzothiazol-2-yl-carbamic acid ethyl ester is saponified at pH 10 to 12 and the mixture is worked up, as described in Example 1. 9.8 g of 2-amino-6-nitrobenzothiazole of melting point 249° to 252° C. are obtained. The content of isomeric nitro compounds is less than 1%.

reactant | benzothiazol-2-yl-carbamic acid ethyl ester | 0.09 mol, 19 g | C(C)OC(NC=1SC2=C(N1)C=CC=C2)=O | C10H10N2O2S
reactant | 6-nitro-benzothiazol-2-yl-carbamic acid ethyl ester | C(C)OC(NC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-])=O | C10H9N3O4S
solvent | water | O | H2O
product | 2-amino-6-nitrobenzothiazole | 9.8 g | NC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C7H5N3O2S
